US08629137B2
3-{1-[6-(1,7-dimethyl-1H-indazole-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
33 mg (0.12 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 45 mg (0.13 mmol) (6-chloro-pyrimidin-4-yl)-(1,7-dimethyl-1H-indazol-5-yl)-methanone and 25 μL (0.18 mmol) TEA were combined in 1 mL DMF and stirred overnight at RT. The reaction mixture was purified by preparative HPLC. The fractions containing the product were combined and evaporated down to approx. 10 mL. This residue was neutralised with saturated sodium hydrogen carbonate solution, the precipitate formed was suction filtered and dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 0.12 mmol, 33 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | (6-chloro-pyrimidin-4-yl)-(1,7-dimethyl-1H-indazol-5-yl)-methanone | 0.13 mmol, 45 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C2C=NN(C2=C(C1)C)C | C14H11ClN4O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(1,7-dimethyl-1H-indazole-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | CN1N=CC2=CC(=CC(=C12)C)C(=O)C1=CC(=NC=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O | C29H31N7O3
